US08729078B2
To 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-(5-carbamoyl-1-methyl-1H-pyrrol-3-yl)benzyl acetate (31 mg, 63.4 μmol, Eq: 1.00) in tetrahydrofuran was added NaOH (1.0 M (aqueous) 1.0 mL, 1.00 mmol, Eq: 15.8). The reaction mixture heated at 60° C. for 4 h. The mixture was cooled to room temperature. The solution was diluted with sat NaHCO3 (aqueous) and dichloromethane. The layers were separated. The aqueous layer was extracted once with dichloromethane. The organic extracts were combined and dried over MgSO4. The solution was filtered. Concentrated in vacuo to give 4-[3-(6-tert-Butyl-3-methyl-1-oxo-3,4-dihydro-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid amide (28 mg, 99%): 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.26-1.40 (m, 9H) 2.56 (s, 3H) 3.95 (s, 3H) 4.53 (br. s., 2H) 5.23 (s, 2H) 6.93 (d, J=1.89 Hz, 1H) 7.14 (d, J=1.89 Hz, 1H) 7.24-7.38 (m, 3H) 7.39-7.53 (m, 1H) 7.64 (dd, J=5.67, 3.40 Hz, 1H) 8.01 (d, J=8.31 Hz, 1H). LC/MS-ESI observed [M+H]+ 447.

reactant | 2-(6-tert-butyl-3-methyl-1-oxo-3,4-dihydrophthalazin-2(1H)-yl)-6-(5-carbamoyl-1-methyl-1H-pyrrol-3-yl)benzyl acetate | 63.4 μmol, 31 mg | C(C)(=O)OCC1=C(C=CC=C1C1=CN(C(=C1)C(N)=O)C)N1C(C2=CC=C(C=C2CN1C)C(C)(C)C)=O | C28H32N4O4
reactant | NaOH | 1.00 mmol, 1.0 M, 1.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[3-(6-tert-Butyl-3-methyl-1-oxo-3,4-dihydro-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid amide | 28 mg, 99% | C(C)(C)(C)C=1C=C2CN(N(C(C2=CC1)=O)C=1C(=C(C=CC1)C=1C=C(N(C1)C)C(=O)N)CO)C | C26H30N4O3
